US05624935
5-{4-(5-Methoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.25 g of 2-hydroxymethyl-5-methoxy-3-methylimidazo[5,4-b]pyridine (prepared as described in Preparation 69), 0.66 g of 5-(4-hydroxybenzyl) -3-triphenylmethylthiazolidine-2,4-dione, 0.35 ml of tributylphosphine, 0.36 g of 1,1'-(azodicarbonyl)dipiperidine and 15 ml of toluene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 0.70 9 of the title compound, melting at 80°-85° C. (softening).

reactant | 2-hydroxymethyl-5-methoxy-3-methylimidazo[5,4-b]pyridine | 0.25 g | OCC=1N(C2=NC(=CC=C2N1)OC)C | C9H11N3O2
reactant | 5-(4-hydroxybenzyl) -3-triphenylmethylthiazolidine-2,4-dione | 0.66 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.35 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 0.36 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{4-(5-Methoxy-3-methyl-3H-imidazo[4,5-b]pyridin-2-ylmethoxy) benzyl}-3-triphenylmethylthiazolidine-2,4-dione | COC1=CC=C2C(=N1)N(C(=N2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2)C | C38H32N4O4S
